US04414390
To a suspension of 5-(3-nitrosoimidazo[1,2-a]-pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril (20.85 g) in methanol (500 ml) was added 12 ml of concentrated hydrochloric acid to render the suspension acidic. 10% Palladium-carbon (2 g), was added to the suspension, and catalytic reduction was carried out at room temperature under atmospheric pressure. After completion of reaction, water was added to the reaction mixture to dissolve and the resulting mixture was heated. After removing the catalyst by filtration, the filtrate was concentrated to dryness. Acetone was added to the residue, and crystals which precipitated were collected by filtration and recrystallized from water to give 21.20 g of 5-(3-aminoimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril monohydrochloride hemihydrate.

reactant | 5-(3-nitrosoimidazo[1,2-a]-pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril | 20.85 g | N(=O)C1=C(N=C2N1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O | C17H14N4O3
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 500 ml | CO | CH4O
catalyst | Palladium-carbon | 2 g | [C].[Pd]
product | 5-(3-aminoimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril monohydrochloride hemihydrate | 21.20 g | O.Cl.NC1=C(N=C2N1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O.NC2=C(N=C1N2C=CC=C1)C1=C2CCC(NC2=C(C=C1)OC)=O.Cl | InChI=1S/2C17H16N4O2.2ClH.H2O/c2*1-23-12-7-5-11(10-6-8-14(22)20-15(10)12)16-17(18)21-9-3-2-4-13(21)19-16;;;/h2*2-5,7,9H,6,8,18H2,1H3,(H,20,22);2*1H;1H2
